US08445523B2
1.23 g (6.11 mmol) of 1-(pyridin-3-ylamino)-cyclohexanecarbonitrile are dissolved in 20 ml of concentrated sulfuric acid. The reaction medium is stirred at room temperature for 72 hours. It is then poured slowly into ice and the pH is brought to 14 with sodium hydroxide, and extracted with dichloromethane. The organic phases are combined and washed with water. They are dried over sodium sulfate. The solvents are evaporated off. The residue is chromatographed on silica gel (ethyl acetate and then 90/10 ethyl acetate/methanol). 1-(Pyridin-3-ylamino)-cyclohexanecarboxylic acid amide is obtained in the form of a white solid.

reactant | 1-(pyridin-3-ylamino)-cyclohexanecarbonitrile | 6.11 mmol, 1.23 g | N1=CC(=CC=C1)NC1(CCCCC1)C#N | C12H15N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(Pyridin-3-ylamino)-cyclohexanecarboxylic acid amide | N1=CC(=CC=C1)NC1(CCCCC1)C(=O)N | C12H17N3O
